US07772234B2
Step G: Preparation of 4-amino-2-(2,4-dichlorophenylamino)-3-fluoro-5-isopropenyl-benzoic acid methyl ester.
A mixture of 4-amino-5-bromo-2-(2,4-dichlorophenylamino)-3-fluorobenzoic acid methyl ester (502 mg, 1.23 mmol), potassium isopropenyl trifluoroborate (218 mg, 1.47 mmol, Org. Lett. 2002, 4, 107), PdCl2(dppf)CH2Cl2 (101 mg, 0.122 mmol), and t-BuNH2 (0.39 mL, 3.67 mmol) in i-PrOH-H2O (2:1, 12 mL) was refluxed for 16 hours. The reaction mixture was diluted with EtOAc, washed with water, dried over MgSO4, filtered, and concentrated in vacuo to give the crude material which was purified by silica gel flash column chromatography (20% CH2Cl2 in hexanes) to give the desired product (225 mg, 49%).

reactant | 4-amino-5-bromo-2-(2,4-dichlorophenylamino)-3-fluorobenzoic acid methyl ester | 1.23 mmol, 502 mg | COC(C1=C(C(=C(C(=C1)Br)N)F)NC1=C(C=C(C=C1)Cl)Cl)=O | C14H10BrCl2FN2O2
reactant | t-BuNH2 | 3.67 mmol, 0.39 mL | C(C)(C)(C)N | C4H11N
solvent | i-PrOH-H2O | 12 mL | C(C)(C)O.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-amino-2-(2,4-dichlorophenylamino)-3-fluoro-5-isopropenyl-benzoic acid methyl ester | 225 mg, 49% | COC(C1=C(C(=C(C(=C1)C(=C)C)N)F)NC1=C(C=C(C=C1)Cl)Cl)=O | C17H15Cl2FN2O2
